US07678783B2
To a solution of methyl N-(tert-butoxycarbonyl)-alpha-methyl-3-(2-oxo-2-phenylethoxy)phenylalaninate (0.600 g, 1.40 mmol), 4 A sieves (spatula tip), acetic acid (0.089 mL, 1.54 mmol), and benzylamine (0.184 mL, 1.68 mmol) in 10.0 mL dichloroethane was added sodium triacetoxyborohydride (0.357 g, 1.68 mmol). After 16 hr, additional benzylamine (0.092 mL, 0.840 mmol), sodium triacetoxyborohydride (0.178 g, 0.840 mmol), and acetic acid (0.045 mL, 0.770 mmol) were added. After an additional 16 hr, the temperature was raised to 50° C. for 30 hr., and additional amounts of 4 A sieves, acetic acid, benzylamine, and sodium triacetoxyborohydride were added over 72 hr to achieve full conversion. The reaction was quenched with bicarb. and filtered, washing with water and EtOAc. The layers of the filtrate were separated, and the aqueous layer was back extracted with EtOAc. The organic layers were combined, washed with bicarb. and brine (×2), dried over sodium sulfate, and concentrated in vacuo. Purification by flash chromatography (90 g silica, 0-30% EtOAc in hexanes) gave methyl 3-[2-(benzylamino)-2-phenylethoxy]-N-(tert-butoxycarbonyl)-alpha-methylphenylalaninate as a yellow foam.

reactant | methyl N-(tert-butoxycarbonyl)-alpha-methyl-3-(2-oxo-2-phenylethoxy)phenylalaninate | 1.40 mmol, 0.600 g | C(C)(C)(C)OC(=O)N[C@@](CC1=CC(=CC=C1)OCC(C1=CC=CC=C1)=O)(C(=O)OC)C | C24H29NO6
reactant | acetic acid | 1.54 mmol, 0.089 mL | C(C)(=O)O | C2H4O2
reactant | benzylamine | 1.68 mmol, 0.184 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 1.68 mmol, 0.357 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzylamine | 0.840 mmol, 0.092 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 0.840 mmol, 0.178 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.770 mmol, 0.045 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 10.0 mL | ClC(C)Cl | C2H4Cl2
product | methyl 3-[2-(benzylamino)-2-phenylethoxy]-N-(tert-butoxycarbonyl)-alpha-methylphenylalaninate | C(C1=CC=CC=C1)NC(COC=1C=C(C[C@](NC(=O)OC(C)(C)C)(C(=O)OC)C)C=CC1)C1=CC=CC=C1 | C31H38N2O5
